US04331674
34 g (0.091 mol) of 4-bromo-4-(4-chlorophenoxy)-2,2-dimethyl-3-keto-butanoic acid ethyl ester were dissolved in 240 ml of acetonitrile. 24 g (0.345 mol) of 1,2,4-triazole were added and the mixture was heated for 48 hours under reflux. The solvent was then distilled off in vacuo, the residue was dissolved in 200 ml of methylene chloride and the solution was washed three times with 50 ml of water each time, dried over sodium sulphate and concentrated. The oil which remained was boiled up with 100 ml of petroleum ether, whereupon it crystallized. The solid was filtered off and dried. 24.9 g (78% of theory) of 4-(4-chlorophenoxy)-2,2-dimethyl-3-keto-4-(1,2,4-triazol-1-yl)-butanoic acid ethyl ester of melting point 88°-89° C. were obtained.

reactant | 4-bromo-4-(4-chlorophenoxy)-2,2-dimethyl-3-keto-butanoic acid ethyl ester | 0.091 mol, 34 g | C(C)OC(C(C(C(OC1=CC=C(C=C1)Cl)Br)=O)(C)C)=O | C14H16BrClO4
reactant | 1,2,4-triazole | 0.345 mol, 24 g | N1N=CN=C1 | C2H3N3
solvent | acetonitrile | 240 ml | C(C)#N | C2H3N
product | 4-(4-chlorophenoxy)-2,2-dimethyl-3-keto-4-(1,2,4-triazol-1-yl)-butanoic acid ethyl ester | 24.9 g, 78% | C(C)OC(C(C(C(N1N=CN=C1)OC1=CC=C(C=C1)Cl)=O)(C)C)=O | C16H18ClN3O4
